### PR TITLE
[Merged by Bors] - feat(Algebra/Polynomial/Splits): add `Splits.image_rootSet_of_monic`

### PR DESCRIPTION
**Pull request by tb65536**
This PR adds a new lemma `Splits.image_rootSet_of_monic` as well as extracting some commonly used variables to the top of the section. I also took the liberty of removing the `IsSimpleRing R` assumption from `Splits.aeval_eq_prod_aroots_of_monic`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 1]
```diff
@@ -380,21 +381,28 @@ theorem Splits.mem_range_of_isRoot {S : Type*} [CommRing S] [IsDomain S] [IsSimp
...
   exact (Subalgebra.map_injective g.injective).eq_iff
 
+omit [IsDomain R] in
+theorem Splits.image_rootSet_of_monic (hf : (f.map (algebraMap R A)).Splits) (hfm : f.Monic)
+    (g : A →ₐ[R] B) : g '' f.rootSet A = f.rootSet B := by
+  classical
+  have key := (hfm.map (algebraMap R A)).roots_map_of_card_eq_natDegree (g : A →+* B)
+    hf.natDegree_eq_card_roots.symm
+  rw [map_map, g.comp_algebraMap] at key
+  simp [rootSet, aroots, ← key, Multiset.toFinset_map]
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Splits.lean]: I think you should prove the following
```lean
theorem Splits.roots_map {R S : Type*} [CommRing R] [CommRing S] [IsDomain R] [IsDomain S]
    {f : R[X]} (hf : Splits f) {φ : R →+* S} (hφ : f.map φ ≠ 0) :
    (f.map φ).roots = f.roots.map φ := by
  induction hf using Submonoid.closure_induction with
  | mem p hp => obtain (⟨r, rfl⟩ | ⟨a, rfl⟩) := hp <;> simp
  | one => simp
  | mul x y _ _ hx hy => simp_all [roots_mul, show x * y ≠ 0 by aesop]
```
And then you can replace `him` with `f.map (algebraMap R B) ≠ 0`

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 2]
```diff
@@ -368,6 +369,14 @@ theorem Splits.roots_ne_zero (hf : Splits f) (hf0 : natDegree f ≠ 0) :
...
 
+theorem Splits.roots_map {R S : Type*} [CommRing R] [CommRing S] [IsDomain R] [IsDomain S]
+    {f : R[X]} (hf : Splits f) {φ : R →+* S} (hφ : f.map φ ≠ 0) :
+    (f.map φ).roots = f.roots.map φ := by
+  induction hf using Submonoid.closure_induction with
+  | mem p hp => obtain (⟨r, rfl⟩ | ⟨a, rfl⟩) := hp <;> simp
+  | one => simp
+  | mul x y _ _ hx hy => simp_all [roots_mul, show x * y ≠ 0 by aesop]
+
 theorem Splits.map_roots {S : Type*} [CommRing S] [IsDomain S] [IsSimpleRing R]
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Splits.lean]: This probably should be renamed.

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 3]
```diff
@@ -368,6 +369,14 @@ theorem Splits.roots_ne_zero (hf : Splits f) (hf0 : natDegree f ≠ 0) :
     f.roots ≠ 0 := by
   simpa [hf.natDegree_eq_card_roots] using hf0
 
+theorem Splits.roots_map {R S : Type*} [CommRing R] [CommRing S] [IsDomain R] [IsDomain S]
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Splits.lean]: Can the variables be reused here?

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 4]
```diff
@@ -369,22 +369,25 @@ theorem Splits.roots_ne_zero (hf : Splits f) (hf0 : natDegree f ≠ 0) :
...
     (f.map φ).roots = f.roots.map φ := by
   induction hf using Submonoid.closure_induction with
   | mem p hp => obtain (⟨r, rfl⟩ | ⟨a, rfl⟩) := hp <;> simp
   | one => simp
   | mul x y _ _ hx hy => simp_all [roots_mul, show x * y ≠ 0 by aesop]
 
-theorem Splits.map_roots {S : Type*} [CommRing S] [IsDomain S] [IsSimpleRing R]
+theorem Splits.roots_map {S : Type*} [CommRing S] [IsDomain S] [IsSimpleRing R]
     (hf : f.Splits) (i : R →+* S) : (f.map i).roots = f.roots.map i :=
   (roots_map_of_injective_of_card_eq_natDegree i.injective hf.natDegree_eq_card_roots.symm).symm
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Splits.lean]: This could be generalized to injective as well. Not sure if we should still keep the `IsSimpleRing` version or not.

Comment (tb65536) [reply Mathlib/Algebra/Polynomial/Splits.lean]: I'll keep it around for now, but it does seem like these `IsSimpleRing` lemmas are probably just holdovers from the `Field` days and not worth keeping long-term.

**Review by erdOne — COMMENTED** [review]
Thanks!
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
